US07732452B2
Step 3: 4-[4-(2-Chloro-phenoxy)-butyrylamino]-thiophene-3-carboxylic acid methyl ester
To 4-amino-thiophene-3-carboxylic acid methyl ester hydrochloride (199 mg, 0.994 mmol) in dichloromethane (1.9 mL) and triethylamine (0.29 mL, 2.08 mmol), was slowly added a crude solution of 4-(2-chloro-phenoxy)-butyryl chloride (271 mg, approximately 1.16 mmol) in dichloromethane (1.9 mL). The reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was then further diluted with dichloromethane (50 mL) and washed with water. The aqueous phase was then extracted with dichloromethane and the combined organic phases were dried with sodium sulfate, and concentrated in vacuo. The residue was then purified by column chromatography (SiO2, Heptane/EtOAc: 0-80%) to yield the title compound as a white solid (281 mg, 80%).

reactant | 4-amino-thiophene-3-carboxylic acid methyl ester hydrochloride | 0.994 mmol, 199 mg | Cl.COC(=O)C1=CSC=C1N
reactant | triethylamine | 2.08 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-chloro-phenoxy)-butyryl chloride | approximately 1.16 mmol, 271 mg | ClC1=C(OCCCC(=O)Cl)C=CC=C1 | C10H10Cl2O2
solvent | dichloromethane | 1.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-[4-(2-Chloro-phenoxy)-butyrylamino]-thiophene-3-carboxylic acid methyl ester | 281 mg, 80% | COC(=O)C1=CSC=C1NC(CCCOC1=C(C=CC=C1)Cl)=O | C16H16ClNO4S
